US05652239
7-Chloro-8-methoxypyridazino[4,5-b]indole-1,4-dione
To a solution of ethanol (15 ml) and dimethyl 5-methoxy-6-chloroindole-2,3-dicarboxylate (0.67 g, 2.30 mM), was added hydrazine hydrate (3.45 g, 0.69 mM). The resulting heterogeneous mixture was refluxed for 5 hr and then cooled to room temperature. The ethanol was removed under reduced pressure, acetic acid (15 ml) was added, and the resulting mixture refluxed for 2 hr. The reaction was cooled to room temperature, filtered, and dried. This afforded the titled compound as a white solid (0.18 g, 30%).

reactant | dimethyl 5-methoxy-6-chloroindole-2,3-dicarboxylate | 2.30 mM, 0.67 g | COC=1C=C2C(=C(NC2=CC1Cl)C(=O)OC)C(=O)OC | C13H12ClNO5
reactant | hydrazine hydrate | 0.69 mM, 3.45 g | O.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 7-Chloro-8-methoxypyridazino[4,5-b]indole-1,4-dione | 0.18 g, 30% | ClC=1C(=CC=2C3=C(NC2C1)C(N=NC3=O)=O)OC | C11H6ClN3O3
